datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1](=[C:2]([C:3]([H:14])([H:15])[H:16])[c:4]1[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]1[H:21])[H:13])([H:10])([H:11])[H:12].[C:22]([C:23]([C:24]([H:29])([H:30])[H:31])[C:25]([H:32])([H:33])[H:34])([H:26])([H:27])[H:28]>>[C:0]([C:1]([C:2]([C:3]([H:14])([H:15])[H:16])[c:4]1[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]1[H:21])([H:13])[C:23]([C:22]([H:26])([H:27])[H:28])([C:24]([H:29])([H:30])[H:31])[C:25]([H:32])([H:33])[H:34])([H:10])([H:11])[H:12],10.1253
[C:0]([S:1][S:2][H:6])([H:3])([H:4])[H:5].[H:7]>>[C:0]([H:3])([H:4])[H:5].[S:1]([S:2][H:6])[H:7],24.2672
[C:0](#[C:1][C:2]([S:3][H:7])([H:5])[H:6])[H:4].[C:8]([C:9]([C:10]([H:20])([H:21])[H:22])[c:11]1[c:12]([H:23])[c:13]([H:24])[c:14]([H:25])[c:15]([H:26])[c:16]1[H:27])([H:17])([H:18])[H:19]>>[C:0](#[C:1][C:2]([S:3][H:7])[H:6])[H:4].[H:5][C:9]([C:8]([H:17])([H:18])[H:19])([C:10]([H:20])([H:21])[H:22])[c:11]1[c:12]([H:23])[c:13]([H:24])[c:14]([H:25])[c:15]([H:26])[c:16]1[H:27],12.9704
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[H:5])[H:4].[C:9](=[C:10]([c:11]1[c:12]([H:25])[c:13]([H:26])[c:14]([H:27])[c:15]([H:28])[c:16]1[H:29])[H:24])([c:17]1[c:18]([H:30])[c:19]([H:31])[c:20]([H:32])[c:21]([H:33])[c:22]1[H:34])[H:23]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([H:5])[C:9]([C:10]([c:11]1[c:12]([H:25])[c:13]([H:26])[c:14]([H:27])[c:15]([H:28])[c:16]1[H:29])[H:24])([c:17]1[c:18]([H:30])[c:19]([H:31])[c:20]([H:32])[c:21]([H:33])[c:22]1[H:34])[H:23])[H:4],43.681
[C:0](#[C:1][C:2]([O:3][H:7])([H:5])[H:6])[H:4].[C:8]([H:9])([H:10])[H:11]>>[C:0](#[C:1][C:2]([H:5])[H:6])[H:4].[O:3]([H:7])[C:8]([H:9])([H:10])[H:11],139.187
[C:0](#[C:1][C:2]([S:3][H:6])[H:5])[H:4].[C:7]([C:8]([S:9][H:16])([C:10](=[S:11])[H:17])[H:15])([H:12])([H:13])[H:14]>>[C:0](#[C:1][C:2]([S:3][H:6])([H:5])[H:15])[H:4].[C:7]([C:8]([S:9][H:16])[C:10](=[S:11])[H:17])([H:12])([H:13])[H:14],12.552
[C:0](=[C:1]([C:2]([C:3]([H:14])([H:15])[H:16])=[C:4]([c:5]1[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]1[H:22])[H:17])[H:13])([H:11])[H:12].[C:23]([H:24])([H:25])[H:26]>>[C:0](=[C:1]([C:2]([C:3]([H:14])([H:15])[H:16])[C:4]([c:5]1[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]1[H:22])([H:17])[C:23]([H:24])([H:25])[H:26])[H:13])([H:11])[H:12],20.9618
[O:0]([O:1][C:2]([C:3]([C:4]([O:5][O:6][H:13])([H:11])[H:12])[H:10])([H:8])[H:9])[H:7]>>[C:2](=[C:3]([C:4]([O:5][O:6][H:13])([H:11])[H:12])[H:10])([H:8])[H:9].[O:0]([O:1])[H:7],72.174
[C:0](=[C:1]([c:2]1[c:3]([H:10])[c:4]([H:11])[c:5]([H:12])[c:6]([H:13])[c:7]1[H:14])[H:9])[H:8]>>[C:0](=[C:1]([c:2]1[c:3]([H:10])[c:4]([H:11])[c:5][c:6]([H:13])[c:7]1[H:14])[H:9])([H:8])[H:12],115.340328
[C:0](#[C:1][C:2]([C:3]([H:13])([H:14])[H:15])=[C:4]([C:5]([H:16])([H:17])[H:18])[c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])[H:12].[C:24](=[C:25]([H:27])[H:28])[H:26]>>[C:0](#[C:1][C:2]([C:3]([H:13])([H:14])[H:15])[C:4]([C:5]([H:16])([H:17])[H:18])([c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])[C:24](=[C:25]([H:27])[H:28])[H:26])[H:12],10.711
[C:0](#[C:1][C:2]([H:4])([H:5])[H:6])[H:3].[Cl:7]>>[C:0](#[C:1][C:2]([H:5])[H:6])[H:3].[H:4][Cl:7],4.15973
[C:0]([C:1](=[N:2][H:7])[H:6])([H:3])([H:4])[H:5].[O:8]>>[C:0]([C:1](=[N:2][H:7])[H:6])([H:4])[H:5].[H:3][O:8],14.878304
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([H:18])([H:19])[H:20])[C:7](=[C:8]([H:22])[H:23])[H:21])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])[H:11])([H:9])[H:10]>>[C:0]1([H:9])([H:10])[C:1]([H:11])[C:2]([H:12])([H:13])[C:3]([H:14])([H:15])[C:4]([H:16])([H:17])[C:5]1([C:6]([H:18])([H:19])[H:20])[C:7](=[C:8]([H:22])[H:23])[H:21],70.877
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])[H:4].[C:8](#[C:9][C:10]([C:11]([H:14])([H:15])[H:16])[C:12]([H:17])([H:18])[H:19])[H:13]>>[C:0](=[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])([H:4])[C:10]([C:9]#[C:8][H:13])([C:11]([H:14])([H:15])[H:16])[C:12]([H:17])([H:18])[H:19],27.3215
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3]([H:11])([H:12])[H:13])[H:7])([H:4])([H:5])[H:6].[C:14](=[O:15])[H:16]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[C:3]([H:11])([H:12])[H:13])([H:4])([H:5])[H:6].[H:7][C:14](=[O:15])[H:16],175.477
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[C:4]([H:8])([H:9])[H:10])[H:5].[C:11](=[C:12]([C:13]([C:14](=[C:15]([H:21])[H:22])[H:20])[H:19])[H:18])([H:16])[H:17]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[C:13]([C:12](=[C:11]([H:16])[H:17])[H:18])([C:14](=[C:15]([H:21])[H:22])[H:20])[H:19])[C:4]([H:8])([H:9])[H:10])[H:5],54.8941
[C:0](=[C:1]([C:2]([C:3]([H:15])([H:16])[H:17])=[C:4]([C:5]([H:18])([H:19])[H:20])[C:6]([C:7](=[C:8]([C:9]([C:10]([H:25])([H:26])[H:27])[C:11]([H:28])([H:29])[H:30])[H:24])[H:23])([H:21])[H:22])[H:14])([H:12])[H:13]>>[C:0](=[C:1]([C:2]1([C:3]([H:15])([H:16])[H:17])[C:4]([C:5]([H:18])([H:19])[H:20])[C:6]([H:21])([H:22])[C:7]([H:23])=[C:8]([H:24])[C:9]1([C:10]([H:25])([H:26])[H:27])[C:11]([H:28])([H:29])[H:30])[H:14])([H:12])[H:13],114.265
